US04152441
Using the procedure described in Example VIC but substituting an equivalent amount of α-(p-fluorophenyl)-1-(methoxymethyl)-α-phenylimidazole-2-methanol for the 1-[(benzyloxy)methyl]-α-(p-chlorophenyl)-α-phenylimidazole-2-methanol, α-(p-fluorophenyl)-α-phenylimidazole-2-methanol was obtained. Its melting point was 199-200.5° C. after crystallisation from acetone.

reactant | α-(p-fluorophenyl)-1-(methoxymethyl)-α-phenylimidazole-2-methanol | FC1=CC=C(C=C1)C(O)(C=1N(C=CN1)COC)C1=CC=CC=C1 | C18H17FN2O2
reactant | 1-[(benzyloxy)methyl]-α-(p-chlorophenyl)-α-phenylimidazole-2-methanol | C(C1=CC=CC=C1)OCN1C(=NC=C1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C24H21ClN2O2
product | α-(p-fluorophenyl)-α-phenylimidazole-2-methanol | FC1=CC=C(C=C1)C(O)(C=1NC=CN1)C1=CC=CC=C1 | C16H13FN2O
